US07629351B2
A solution of benzyl (S)-1-((1S,2R,4R)-2-acetamido-4-aminocyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (13.3 g, 34 mmol) and 3,5-di-tert-butylcyclohexa-3,5-diene-1,2-dione (7.54 g, 34 mmol) in methanol (160 ml) was stirred at room temperature for 2 h. The solution was concentrated and diluted with acetone (132 ml) and water (33 ml), followed by addition of Dowex-50WX8-200 (33 g). The reaction was stirred at room temperature for 2 h. Dowex-50WX8-200 was removed by filtration and washed with dichloromethane (300 ml). The filtrate was concentrated under vacuum to remove most of acetone. The residue was diluted with dichloromethane (200 ml) and washed with aqueous NaHCO3 solution (200 ml) and brine (200 ml). The combined aqueous layers were extracted with dichloromethane (2×100 ml). The combined organic extracts were dried over Na2SO4 and concentrated. The product benzyl (S)-1-((1S,2R)-2-acetamido-4-oxocyclohexyl)-2-oxopyrrolidin-3-ylcarbamate was obtained as a solid (12 g, 90% yield) by crystallization in EtOAc (100 ml) and Hexane (200 ml). 1H-NMR (500 MHz, DMSO-d6) δ ppm 7.99 (d, J=9.35 Hz, 1H), 7.44 (d, J=8.80 Hz, 1H), 7.28-7.39 (m, 5H), 5.03 (s, 2H), 4.50 (s, 1H), 4.31 (d, J=12.10 Hz, 1H), 4.18 (q, J=8.98 Hz, 1H), 3.27 (m, 2H), 2.82 (dd, J=15.12, 5.22 Hz, 1H), 2.52-2.65 (m, 1H), 2.40 (dd, J=12.92, 4.67 Hz, 1H), 2.15-2.31 (m, 2H), 2.09 (d, J=15.40 Hz, 1H), 1.90 (m, 1H), 1.81 (s, 3H), 1.68 (m, 1H). m/z: 388.46 [M+H].

reactant | benzyl (S)-1-((1S,2R,4R)-2-acetamido-4-aminocyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 34 mmol, 13.3 g | C(C)(=O)N[C@H]1[C@H](CC[C@H](C1)N)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C20H28N4O4
reactant | 3,5-di-tert-butylcyclohexa-3,5-diene-1,2-dione | 34 mmol, 7.54 g | C(C)(C)(C)C=1C(C(C=C(C1)C(C)(C)C)=O)=O | C14H20O2
solvent | methanol | 160 ml | CO | CH4O
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | benzyl (S)-1-((1S,2R)-2-acetamido-4-oxocyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | C(C)(=O)N[C@H]1[C@H](CCC(C1)=O)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C20H25N3O5
